US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 5-aminoindole were reacted to yield N2,N4-bis(indol-5-yl)-5-fluoro-2,4-pyrimidinediamine. LCMS: ret. time: 20.26 min.; purity: 99%; MS (m/e): 359 (MH+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 5-aminoindole | NC=1C=C2C=CNC2=CC1 | C8H8N2
product | N2,N4-bis(indol-5-yl)-5-fluoro-2,4-pyrimidinediamine | N1C=CC2=CC(=CC=C12)NC1=NC=C(C(=N1)NC=1C=C2C=CNC2=CC1)F | C20H15FN6
